US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-7-(morpholin-4-ylcarbonyl)-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
1-Hydroxybenzotriazole (117 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (147 mg), triethylamine (0.21 ml) and morpholine (63 μl) were added to a solution of 6-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (140 mg) in N,N-dimethylformamide (3 ml), and the resulting mixture was stirred at 25° C. for 20 hours. A saturated aqueous ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a preparative thin-layer chromatography (hexane/ethyl acetate=2/1) to obtain the title compound (106 mg) as a white solid.

reactant | 1-Hydroxybenzotriazole | 117 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 147 mg | Cl.CN(CCCN=C=NCC)C
reactant | morpholine | 63 μl | N1CCOCC1 | C4H9NO
reactant | 6-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-5-(2-chlorobenzyl)-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | 140 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C(C=2N(C(N(C(C2N1CC1=C(C=CC=C1)Cl)=O)C)=O)C)C(=O)O | C26H32ClN5O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-1,3-dimethyl-7-(morpholin-4-ylcarbonyl)-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 106 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C(=O)N3CCOCC3)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C30H39ClN6O6
